US06251925B1
3′-Amino-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester (680 mg);
n.m.r. (DMSO-d6) δ values include 3.77 (s, 2 H), 3.91 (s, 3 H), 3.92 (s, 3 H), 6.70 (m, 1 H), 6.89 (s, 1 H), 6.97 (d, 1 H), 7.21 (d, 1 H), 7.69 (m, 1 H), 7.79 (d, 1 H), 7.85 (m, 1 H); from 3′-nitro-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester (0.8 g) and 10% Pd/C (560 mg) in tetrahydrofuran (30 mL).

reactant | 3′-nitro-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester | 0.8 g | COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C16H13NO6
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
catalyst | Pd/C | 560 mg | [Pd] | Pd
product | 3′-Amino-[1,1′-biphenyl]-3,4-dicarboxylic acid dimethyl ester | COC(=O)C=1C=C(C=CC1C(=O)OC)C1=CC(=CC=C1)N | C16H15NO4
